US06268387B1
3-Amino-4-methoxy-N-(4-chlorophenyl)-benzamide
Prepared according to the procedure described for Example 1 using oxalyl chloride (5.5 mL, 63.05 mmol), 4-methoxy-3-nitrobenzoic acid (11.30 g, 57.32 mmol), dimethylformamide (1.0 mL, 1.29 mmol), and 4-chloroaniline (14.6 g, 114 mmol) to afford the product (4.4 g); m.p. 191-192° C.

reactant | oxalyl chloride | 63.05 mmol, 5.5 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-methoxy-3-nitrobenzoic acid | 57.32 mmol, 11.30 g | COC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C8H7NO5
reactant | 4-chloroaniline | 114 mmol, 14.6 g | ClC1=CC=C(N)C=C1 | C6H6ClN
catalyst | dimethylformamide | 1.29 mmol, 1.0 mL | CN(C=O)C | C3H7NO
product | 3-Amino-4-methoxy-N-(4-chlorophenyl)-benzamide | 4.4 g | NC=1C=C(C(=O)NC2=CC=C(C=C2)Cl)C=CC1OC | C14H13ClN2O2
